US09340544B2
1-[6-(4-Chloro-phenylamino)-9-methyl-9H-purin-2-yl]-5-methyl-1H-pyrazole-3-carboxylic acid ethyl ester (Compound 9.19)
Was prepared according to Example 9 from (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine and ethyl acetopyruvate.

reactant | (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12ClN7
reactant | ethyl acetopyruvate | CCOC(=O)C(=O)CC(=O)C | C7H10O4
product | 1-[6-(4-Chloro-phenylamino)-9-methyl-9H-purin-2-yl]-5-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl | C19H18ClN7O2
